US08604023B2
7-Chloro-3-(2-chlorophenethyl)-3,4-dihydro-1H-benzo[e][1,4]diazepine-2,5-dione
2-Amino-4-(2-chlorophenyl)butanoic acid hydrochloride (1.49 g, 1 eq) was dissolved in water/acetonitrile 1:1 (24 mL:24 mL), and triethylamine (1.67 mL, 2 eq) was then added. 5-Chloroisatoic anhydride (1.18 g, 1 eq) was added in about 10 portions giving time between each addition for the previous portion to dissolve. After all of the anhydride was added the reaction was stirred at room temperature overnight. Any solids present after reaction were filtered off. The filtrate was concentrated in vacuo, azeotroped with acetonitrile, re-dissolved in AcOH (60 mL) and heated to 130° C. for 6 h. The crude mixture was then concentrated, and the residue was rinsed with NaHCO3(aq), stirring the slurry for 30 minutes before collecting the solid by filtration. The crude solid was washed with acetonitrile. 1H-NMR (300 MHz, DMSO-d6) δ 10.50 (s, 1H), 8.74 (d, 1H), 7.68 (s, 1H), 7.59 (d, 1H), 7.40-7.03 (m, 5H), 3.66 (q, 1H), 2.75 (m, 2H), 2.03 (m, 1H), 1.83 (m, 1H). MS (ES+) m/z 371.0 (M+Na).

reactant | 2-Amino-4-(2-chlorophenyl)butanoic acid hydrochloride | 1.49 g, 1 eq | Cl.NC(C(=O)O)CCC1=C(C=CC=C1)Cl
reactant | triethylamine | 1.67 mL, 2 eq | C(C)N(CC)CC | C6H15N
reactant | 5-Chloroisatoic anhydride | 1.18 g, 1 eq | ClC1=CC=C2C(C(=O)OC(N2)=O)=C1 | C8H4ClNO3
solvent | water acetonitrile | 24 mL | O.C(C)#N
product | 7-Chloro-3-(2-chlorophenethyl)-3,4-dihydro-1H-benzo[e][1,4]diazepine-2,5-dione | ClC1=CC2=C(NC(C(NC2=O)CCC2=C(C=CC=C2)Cl)=O)C=C1 | C17H14Cl2N2O2
